US05955464
A mixture of 5-chloro-2-nitrobenzonitrile (20.0 g) and imidazole (22.3 g) in DMA (150 ml) was heated at 140° C. for 6 hours. The mixture was evaporated and the residue was triturated with water to give 5-(1-imidazolyl)-2-nitrobenzonitrile (25.3 g); NMR Spectrum: (CD3SOCD3) 7.20 (d, 1H), 8.05 (t, 1H), 8.28 (m, 1H), 8.62 (m, 2H), 8.51 (d, 1H);

reactant | 5-chloro-2-nitrobenzonitrile | 20.0 g | ClC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | imidazole | 22.3 g | N1C=NC=C1 | C3H4N2
solvent | DMA | 150 ml | CC(=O)N(C)C | C4H9NO
product | 5-(1-imidazolyl)-2-nitrobenzonitrile | 25.3 g | N1(C=NC=C1)C=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C10H6N4O2
